US05424422
To a solution of (3S,4S)-3-[(1R)-1-t-butyldimethylsilyloxyethyl]-4-[(1R)-1-p-methoxybenzyloxycarbonylethyl]azetidin-2-one (1.12 g) in methylene chloride (14 ml), there were successively added p-nitrobenzyl alpha-bromoacetate (1.09 g), 50% aqueous sodium hydroxide solution (0.85 g) and triethylbenzylammonium chloride (303 mg), followed by stirring at room temperature for 30 minutes. The reaction mixture was diluted with water and extracted with a mixture of diethyl ether and methylene chloride (3:1) three times. The organic layer was washed successively with water two times and brine three times, dried over sodium sulfate and evaporated. The residue was purified by silica gel chromatography to give (3S,4S)-3-[(1R)-1-t-butyldimethylsilyloxyethyl]-4-[(1R)-1-p-methoxybenzyloxycarbonylethyl]-1-(p-nitrobenzyloxycarbonylmethyl)azetidin-2-one.

reactant | (3S,4S)-3-[(1R)-1-t-butyldimethylsilyloxyethyl]-4-[(1R)-1-p-methoxybenzyloxycarbonylethyl]azetidin-2-one | 1.12 g | [Si](C)(C)(C(C)(C)C)O[C@H](C)[C@H]1C(N[C@@H]1[C@@H](C)C(=O)OCC1=CC=C(C=C1)OC)=O | C22H35NO5Si
reactant | p-nitrobenzyl alpha-bromoacetate | 1.09 g | BrCC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C9H8BrNO4
reactant | sodium hydroxide | 0.85 g | [OH-].[Na+]
solvent | methylene chloride | 14 ml | C(Cl)Cl | CH2Cl2
catalyst | triethylbenzylammonium chloride | 303 mg | [Cl-].C(C)[N+](CC1=CC=CC=C1)(CC)CC
solvent | water | O | H2O
product | (3S,4S)-3-[(1R)-1-t-butyldimethylsilyloxyethyl]-4-[(1R)-1-p-methoxybenzyloxycarbonylethyl]-1-(p-nitrobenzyloxycarbonylmethyl)azetidin-2-one | [Si](C)(C)(C(C)(C)C)O[C@H](C)[C@H]1C(N([C@@H]1[C@@H](C)C(=O)OCC1=CC=C(C=C1)OC)CC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O | C31H42N2O9Si
